US07888352B2
To solution of methanesulfonic acid 1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-ethyl ester (640 mg) and 1-methanesulfonyl-piperazine hydrochloride salt (described above) (511 mg) in acetonitrile (50 mL) was added potassium carbonate (1.170 g) and the reaction mixture was stirred at reflux for 16 h. After cooling to room temperature the reaction mixture was reduced in vacuo, redissolved into dichloromethane and washed with saturated aqueous sodium hydrogencarbonate solution and then brine. The organics were dried (MgSO4), reduced in vacuo and purified on silica to yield 2-chloro-6-[1-(4-methanesulfonyl-piperazin-1-yl)-ethyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidine.

reactant | methanesulfonic acid 1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-ethyl ester | 640 mg | ClC=1N=C(C2=C(N1)C=C(S2)C(C)OS(=O)(=O)C)N2CCOCC2 | C13H16ClN3O4S2
reactant | 1-methanesulfonyl-piperazine hydrochloride salt | 511 mg | Cl.CS(=O)(=O)N1CCNCC1
reactant | potassium carbonate | 1.170 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2-chloro-6-[1-(4-methanesulfonyl-piperazin-1-yl)-ethyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)C(C)N2CCN(CC2)S(=O)(=O)C)N2CCOCC2 | C17H24ClN5O3S2
